*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0906-2
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-18GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0906-2_freq port1 port2 PARAMS: Cpar=0.066pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=0.079
+ R2=0.0698
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=104.8
+ L_EL=30.47
+ L_F0=5031E6
+ PkZ=0
.ends 0906-2_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0906-3
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-16GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0906-3_freq port1 port2 PARAMS: Cpar=0.072pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=0
+ R2=0.0968
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=130.5
+ L_EL=37.8
+ L_F0=5479E6
+ PkZ=0
.ends 0906-3_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0906-4
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-11GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0906-4_freq port1 port2 PARAMS: Cpar=0.0899pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=0.65
+ R2=0.1524
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=153.1
+ L_EL=42.8
+ L_F0=4750E6
+ PkZ=0
.ends 0906-4_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0906-5
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0906-5_freq port1 port2 PARAMS: Cpar=0.1276pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=4.606
+ R2=0.2201
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=158.3
+ L_EL=51.19
+ L_F0=4307E6
+ PkZ=0
.ends 0906-5_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Aircore Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model3B Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L_Z0=1
+ L_EL=1
+ L_F0=1
C1 N002 Lin {C}
R1 Lout N002 {R1}
T1 Lin 0 N003 0 TD={(L_EL/360)/L_F0} Z0={L_Z0}
R2 Lout N003 {R2}
.ends Model3B








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
